US07786165B2
A solution of ethyl 3-(2-fluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (0.686 g, 1.73 mmol), (4-{1-[(4-phenyl-1,3-thiazol-2-yl)methyl]butyl}phenyl)methanol (0.389 g, 1.15 mmol) and triphenylphosphine (0.603 g, 2.30 mmol) in tetrahydrofuran (15 mL) was stirred under ice-cooling, and diethyl azodicarboxylate (40% toluene solution, 1.05 mL, 2.3 mmol) was added. The mixture was allowed to warm to room temperature and stirred for 16 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (10%-80% ethyl acetate/hexane) to give ethyl 3-{2-fluoro-4-[[(2-nitrophenyl)sulfonyl](4-{1-[(4-phenyl-1,3-thiazol-2-yl)methyl]butyl}benzyl)amino]phenyl}propanoate as a yellow oil. To a solution of the obtained oil and mercaptoacetic acid (0.291 g, 3.16 mmol) in N,N-dimethylformamide (15 mL) was added lithium hydroxide monohydrate (0.265 g, 6.32 mmol), and the mixture was stirred at room temperature for 2 hr. Ethyl acetate was added to the reaction mixture, and the mixture was washed with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-40% ethyl acetate/hexane) to give the title compound (0.420 g, yield 69%, 2 steps) as a colorless oil.

reactant | ethyl 3-(2-fluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 1.73 mmol, 0.686 g | FC1=C(C=CC(=C1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCC(=O)OCC | C17H17FN2O6S
reactant | (4-{1-[(4-phenyl-1,3-thiazol-2-yl)methyl]butyl}phenyl)methanol | 1.15 mmol, 0.389 g | C1(=CC=CC=C1)C=1N=C(SC1)CC(CCC)C1=CC=C(C=C1)CO | C21H23NOS
reactant | triphenylphosphine | 2.30 mmol, 0.603 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.3 mmol, 1.05 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | ethyl 3-{2-fluoro-4-[[(2-nitrophenyl)sulfonyl](4-{1-[(4-phenyl-1,3-thiazol-2-yl)methyl]butyl}benzyl)amino]phenyl}propanoate | FC1=C(C=CC(=C1)N(CC1=CC=C(C=C1)C(CCC)CC=1SC=C(N1)C1=CC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCC(=O)OCC | C38H38FN3O6S2
